US09428483B2
Synthesis of (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((5-methyl-2-oxo-1,3-dioxol-4-yl)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid (A-16)
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 660 mg) and 4-(bromomethyl)-5-methyl-1,3-dioxol-2-one (639 mg) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (A-16, 188 mg) as a pale yellow solid.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 660 mg | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | 4-(bromomethyl)-5-methyl-1,3-dioxol-2-one | 639 mg | BrCC=1OC(OC1C)=O | C5H5BrO3
product | (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((5-methyl-2-oxo-1,3-dioxol-4-yl)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid | 188 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OCC=1OC(OC1C)=O)C(=O)O | C13H14FNO7
